US06235731B1
6) Synthesis of N-[2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethyl]phthalimide
To a solution of 1.835 g (6.863 mM) of 2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethanol and 1.43 ml (10.3 mM) of triethylamine in 50 ml of tetrahydrofuran was added 0.64 ml (8.24 mM) of methanesulfonyl chloride dropwise with ice-cooling and the mixture was stirred at 0° C. for 0.5 hour. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of diethyl ether. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The crude 2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethyl methanesulfonate thus obtained was dissolved in 60 ml of N,N-dimethylformamide, followed by addition of 1.40 g (7.55 mM) of potassium phthalimide, and the mixture was stirred at 100° C. for 4 hours. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The pooled organic solution was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel flash column chromatography (hexane/ethyl acetate=3/1 to 2/1) to provide a mixture of the objective compound and phthalimide. This product was dissolved in ethyl acetate and the solution was washed serially with aqueous solution of sodium hydroxide and saturated aqueous solution of sodium chloride. It was then dried over anhydrous sodium sulfate (Na2SO4) and the solvent was distilled off under reduced pressure to provide the title compound.

reactant | potassium phthalimide | 7.55 mM, 1.40 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-phenylpropan-1-yl)-2,3-dihydro-1H-isoindol-5-ylmethyl]phthalimide | C1(=CC=CC=C1)CCCN1CC2=CC=C(C=C2C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C26H24N2O2
